US07884109B2
To a solution of 2-(1H-benzo[d]imidazol-1-yl)-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine (51 mg) in THF (10 mL) was added a solution of sodium hydrosulfite (300 mg) and sodium bicarbonate (150 mg) in water (10 mL). The mixture briefly became blue followed by colorless. Methanol (1 mL) was added to maintain the homogeneity of the solution. The mixture was diluted with 70 mL EtOAc and washed twice with brine. The aqueous washes were extracted with another 50 mL of EtOAc and then the combined organic layers were dried over sodium sulfate and concentrated in vacuo to provide 2-(1H-benzo[d]imidazol-1-yl)-N4-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)pyrimidine-4,5-diamine. The diamine intermediate was dissolved in THF (5 mL) and treated with 1,1′-carbonyldiimidazole (80 mg) at 50° C. for 16 hours. The mixture was diluted with 50 mL EtOAc and washed 3 times with brine. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo. Column chromatography (2→4% MeOH/DCM) provided 19.3 mg of the title compound. 1H-NMR (300 MHz, 5% CD3OD in CDCl3) δ 8.9 (s, 1H), 8.5 (d, 1H), 8.2 (s, 1H), 7.8 (d, 1H), 7.4 (t, 1H), 7.3 (t, 1H), 4.7 (m, 1H), 4.2 (d(br), 1H), 3.9 (d, 1H), 3.7 (d, 1H), 3.5 (m, 2H), 2.3 (t(br), 1H), 1.8 (d(br), 1H), 1.2 (d, 3H).

reactant | 2-(1H-benzo[d]imidazol-1-yl)-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine | 51 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C(C(=N2)N[C@@H]2[C@@H](COCC2)C)[N+](=O)[O-] | C17H18N6O3
reactant | sodium hydrosulfite | 300 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 150 mg | C([O-])(O)=O.[Na+]
reactant | Methanol | 1 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 2-(1H-benzo[d]imidazol-1-yl)-N4-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)pyrimidine-4,5-diamine | N1(C=NC2=C1C=CC=C2)C2=NC=C(C(=N2)N[C@@H]2[C@@H](COCC2)C)N | C17H20N6O
